US05674906
Synthesis of (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene-Fmoc-alanineamide
(Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene (2.2 g, 6.9 mmols), 2.7 g (8.3 mmols) of Fmoc-L-Ala and 12.1 g (27.6 mmols) of a BOP reagent were dissolved in 22 ml of N,N-dimethylformamide, and the mixture was heated at 60° C. for 4 hours. After the reaction mixture was cooled, a saturated aqueous solution of sodium hydrogencarbonate was added thereto, and the resulting mixture was extracted three times with dichloromethane. The extract was dried over anhydrous sodium sulfate, and concentrated to dryness under reduced pressure. The product was purified through silica-gel column chromatography (mixture of ethyl acetate and hexane at a ratio of 1:2) to produce 1.79 g of the final product in a yield of 41.4%.

reactant | (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene | 6.9 mmols, 2.2 g | NC=1C=C(C=CC1OC)\C=C/C1=CC(=C(C(=C1)OC)OC)OC | C18H21NO4
reactant | Fmoc-L-Ala | 8.3 mmols, 2.7 g | N([C@@H](C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C18H17NO4
reactant | BOP reagent | 27.6 mmols, 12.1 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 22 ml | CN(C=O)C | C3H7NO
product | (Z)-1-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-ethene Fmoc-alanineamide | 1.79 g, yield of 41.4% | NC=1C=C(C=CC1OC)\C=C/C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](C)C(=O)N | InChI=1S/C18H18N2O3.C18H21NO4/c1-11(17(19)21)20-18(22)23-10-16-14-8-4-2-6-12(14)13-7-3-5-9-15(13)16;1-20-15-8-7-12(9-14(15)19)5-6-13-10-16(21-2)18(23-4)17(11-13)22-3/h2-9,11,16H,10H2,1H3,(H2,19,21)(H,20,22);5-11H,19H2,1-4H3/b;6-5-/t11-;/m0./s1
